US03974168
4.8 g of ethyl 5(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-5-cyano-4-oxovalerate is dissolved in 10 ml of concentrated hydrochloric acid. 30 ml of water is added at a stretch to the solution with stirring under ice-cooling, and the mixture is stirred under reflux for 5 hours. The reaction mixture is ice-cooled and adjusted to approximately pH 3 by addition of 30% sodium hydroxide. The resulting oil layer is extracted with chloroform, and the extract is dried over anhydrous sodium sulfate and concentrated. The oily residue, on standing, becomes solid. The solid is recrystallized from a mixture of dioxane and water (1:1) to give 3.4 g of 5-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-4-oxovaleric acid as white needles melting at 146°-147°C.

reactant | ethyl 5(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-5-cyano-4-oxovalerate | 4.8 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(CCC(=O)OCC)=O)C#N | C20H18N2O4
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 5-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-4-oxovaleric acid | 3.4 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)CC(CCC(=O)O)=O | C17H15NO4
